US05013749
Sodium (3R,5S,E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate
A solution of methyl (3R,5S,E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate (34.4 mg) in dry THF (2 ml) was treated with aqueous sodium hydroxide solution (0.1M 0.660 ml). After 5 minutes, the solution was concentrated and the aqueous residue was diluted with water (9 ml) and the solution washed with ethyl acetate (4×). The solution was briefly evaporated and then freeze-dried to give the title compound (29.2 mg) as a white fluffy solid, [α]D20 +16.7° (c 0.4, H2O); δ(D2O) 1.20-1.55, 1.55-1.85 (m, 2H, CH(OH)CH2CH(OH)), 1.34 (d, J 7 Hz, 6H, CH(CH3)2), 2.26 (d, J 7 Hz, 2H, CH2CO2Na), 3.30 (septet, J 7 Hz, 1H, CH(CH3)2), 3.67 (m, 1H, =CHCH(OH)CH2CH(OH)), 4.35 (m, 1H, CH=CHCH(OH)), 5.61 (dd, J 14 and 7 Hz, 1H, NCH=CH), 6.75 (d, J 14 Hz, 1H, NCH=CH), 7.01 (t, J 9 Hz, 2H, C-3 and C-5 protons of 4-(4-fluorophenyl)), 7.1-7.4 (m, 6H, aromatics).

reactant | methyl (3R,5S,E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate | 34.4 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](C[C@H](CC(=O)OC)O)O)C(C)C | C26H28F2N2O4
reactant | sodium hydroxide | 0.1M, 0.660 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | Sodium (3R,5S,E)-7-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate | 29.2 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C.[Na+] | InChI=1S/C25H26F2N2O4.Na/c1-15(2)25-28-23(16-3-7-18(26)8-4-16)24(17-5-9-19(27)10-6-17)29(25)12-11-20(30)13-21(31)14-22(32)33;/h3-12,15,20-21,30-31H,13-14H2,1-2H3,(H,32,33);/q;+1/p-1/b12-11+;/t20-,21-;/m1./s1
